US05614544
Ethyl (E,E,E)-5-[4-[2-[2-(2-furyl)-5-methyl-4-oxazolyl]vinyl]phenyl]2,4-pentadienoate was reduced with diisobutylaluminum hydride in the same manner as in Reference Example 22 to yield (E,E,E)-5-[4-[2-[2-(2-furyl)-5-methyl-4-oxazolyl]vinyl]phenyl]-2,4-pentadien-1-ol, which was then recrystallized from ethyl acetate to yield colorless needles having a melting point of198°-199° C.

reactant | Ethyl (E,E,E)-5-[4-[2-[2-(2-furyl)-5-methyl-4-oxazolyl]vinyl]phenyl]2,4-pentadienoate | O1C(=CC=C1)C=1OC(=C(N1)/C=C/C1=CC=C(C=C1)/C=C/C=C/C(=O)OCC)C | C23H21NO4
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
product | (E,E,E)-5-[4-[2-[2-(2-furyl)-5-methyl-4-oxazolyl]vinyl]phenyl]-2,4-pentadien-1-ol | O1C(=CC=C1)C=1OC(=C(N1)/C=C/C1=CC=C(C=C1)/C=C/C=C/CO)C | C21H19NO3
